US07304161B2
Tert-butylcarbazate (80.0 g, 605 mmol) was stirred in 800 mL methylene chloride and cooled to 0° C. To this was added the potassium carbonate solution (937 g, 847 mmol). 2-Ethyl-3-methoxybenzoyl chloride (132 g, 666 mmol) was dissolved in 400 mL of methylene chloride and added to the reaction mixture dropwise over 15 minutes. The mixture was stirred at 0° C. for 15 min, then at room temperature for 18 hours. The reaction was diluted with more methylene chloride and water. The aqueous phase was separated. The remaining organic phase was washed with 1N HCl, water, saturated sodium chloride, dried over magnesium sulfate and evaporated. The residue was triturated with hexane to give a white solid, N′-(2-ethyl-3-methoxy-benzoyl)-hydrazinecarboxylic acid tert-butyl ester (167 g, 567 mmol) in 94% yield. 1H-NMR (300 MHz, CDCl3) δ (ppm): 7.4 (br s, 1H), 7.22 (t, 1H), 7.03 (br d, 1H), 6.95 (d, 1H), 6.65 (br, 1H), 3.84 (s, 3H), 2.8 (q, 2H), 1.51 (s, 9H), 1.2 (t, 3H).

reactant | Tert-butylcarbazate | 605 mmol, 80.0 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | potassium carbonate | 847 mmol, 937 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Ethyl-3-methoxybenzoyl chloride | 666 mmol, 132 g | C(C)C1=C(C(=O)Cl)C=CC=C1OC | C10H11ClO2
solvent | methylene chloride | 800 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N′-(2-ethyl-3-methoxy-benzoyl)-hydrazinecarboxylic acid tert-butyl ester | 567 mmol, 167 g, 94% yield | C(C)(C)(C)OC(=O)NNC(C1=C(C(=CC=C1)OC)CC)=O | C15H22N2O4
